US07030128B2
7-(1-Methyl-1-triethylsilanyloxyethyl)-3-tributylstannyl-imidazo[1,2-α]pyrimidine was reacted with 2,4-dichloropyrimidine by the method of Example 5 to afford 3-(2-chloropyrimidin-4-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine as a white solid: δH (400 MHz, CDCl3) 0.70 (6H, q, J 8.0), 1.00 (9H, t, J 8.0), 1.69 (6H, s), 7.57 (1H, d, J 5.5), 7.67 (1H, d, J 7.0), 8.53 (2H, m), 10.07 (1H, d, J 7.0); m/z (ES+) 403 (M++H).

reactant | 7-(1-Methyl-1-triethylsilanyloxyethyl)-3-tributylstannyl-imidazo[1,2-α]pyrimidine | CC(C)(O[Si](CC)(CC)CC)C1=NC=2N(C=C1)C(=CN2)[Sn](CCCC)(CCCC)CCCC
reactant | 2,4-dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
product | 3-(2-chloropyrimidin-4-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | ClC1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C19H26ClN5OSi
